US06887889B2
To a solution of 4-(4-iodo-phenyl)-1-methyl-piperidine-4-carboxylic acid pyridine salt (0.44 g, 1.04 mmol, see Example 6) and 3,5-dichlorobenzylamine (0.22 g, 1.24 mmol, 1.2 eq) in anhydrous DMF (5 mL) was added DIC (0.326 mL, 2.08 mmol, 2 eq) followed by DMAP (0.006 g, 0.052 mmol, 5%). The mixture was stirred at room temperature for 16 h and then it was partitioned between EtOAc (50 mL) and saturated aqueous NaHCO3 (50 mL). The organic layer was separated, washed with H2O (3×40 mL) and saturated brine (50 mL), dried over Na2SO4, filtered and concentrated by rotary evaporation. The crude material was purified by silica gel chromatography by eluting with 10% MeOH/EtOAc to give 60 mg (11%) of 4-(4-iodo-phenyl)-1-methyl-piperidine-4-carboxylic acid 3,5-dichloro-benzylamide as a white solid. MS(ESI): 503.1/505.1. To a flask containing 4-(4-iodo-phenyl)-1-methyl-piperidine-4-carboxylic acid 3,5-dichloro-benzylamide (60 mg, 0.12 mmol) was added Pd(PPh3)4 (3.2 mg, 0.012 mmol, 10 mol %), 3-cyanophenylboronic acid (26.4 mg, 0.18 mmol, 1.5 eq.) and Na2CO3 (0.21 g, 2 mmol). The mixture was suspended in toluene (2 mL), EtOH (1 mL) and H2O (1 mL) and heated at 90° C. for 18 h. The reaction mixture was cooled to room temperature and partitioned between EtOAc (10 mL) and saturated Na2CO3 (5 mL). The organic layer was washed with saturated Na2CO3 (3×5 mL), dried over anhydrous Na2SO4, filtered and concentrated by rotary evaporation. The crude product was purified by HPLC to give 4-(3′-cyano-biphenyl-4-yl)-1-methyl-piperidine-4-carboxylic acid 3,5-dichloro-benzylamide as a white solid (0.05 g, 0.0105 mmol, 10%). 1H NMR (300 MHz, CDCl3): δ 7.88 (m, 2H), 7.71 (m, 3H), 7.52 (d, 2H), 7.31 (t, 1H), 7.00 (dd, 2H), 6.55 (t, 1H), 4.55 (br, 1H), 4.44 (d, 2H), 3.76 (m, 2H). 3.32 (m, 2H), 2.94 (s, 3H), 2.86 (m, 2H). 2.52 (t, 2H). MS (ESI): 478.1/480.1.

reactant | 4-(4-iodo-phenyl)-1-methyl-piperidine-4-carboxylic acid 3,5-dichloro-benzylamide | 0.12 mmol, 60 mg | ClC=1C=C(CNC(=O)C2(CCN(CC2)C)C2=CC=C(C=C2)I)C=C(C1)Cl | C20H21Cl2IN2O
reactant | 3-cyanophenylboronic acid | 0.18 mmol, 26.4 mg, 1.5 eq. | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Na2CO3 | 2 mmol, 0.21 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 1 mL | CCO | C2H6O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.012 mmol, 3.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 1 mL | O | H2O
product | 4-(3′-cyano-biphenyl-4-yl)-1-methyl-piperidine-4-carboxylic acid 3,5-dichloro-benzylamide | 0.0105 mmol, 0.05 g, 10% | ClC=1C=C(CNC(=O)C2(CCN(CC2)C)C2=CC=C(C=C2)C2=CC(=CC=C2)C#N)C=C(C1)Cl | C27H25Cl2N3O
